US04871878
Effect of Ligand Concentration on n/iso Ratio with Rhodium-Tribenzylphosphine Catalyst
A catalyst charge comprised of 31.25 mg of rhodium (as rhodium 2-ethylhexanoate) and varying amounts of tribenzylphosphine (as noted in Table 3) dissolved in 0.2 liter of Texanol® solvent was charged to the reactor system described above. The reactor was maintained at 125° C. and operated continuously for seven hours. The reaction was conducted according to the general procedure set forth above. Operating parameters and reaction results are set forth in Table 3.

reactant | rhodium | 31.25 mg | [Rh] | Rh
reactant | tribenzylphosphine | C(C1=CC=CC=C1)P(CC1=CC=CC=C1)CC1=CC=CC=C1 | C21H21P
solvent | Texanol | 0.2 liter | CC(C)C(C(C)(C)COC(=O)C(C)C)O | C12H24O3
product | Rhodium Tribenzylphosphine | [Rh].C(C1=CC=CC=C1)P(CC1=CC=CC=C1)CC1=CC=CC=C1 | InChI=1S/C21H21P.Rh/c1-4-10-19(11-5-1)16-22(17-20-12-6-2-7-13-20)18-21-14-8-3-9-15-21;/h1-15H,16-18H2;
